US05179106
1-[4-(quinolin-2-yl-methoxy)phenyl]-1-pentylamine
10.5 g (30 mmol) of 2-[4-(quinolin-2-yl-methoxy)phenyl]-caproic acid and 7.7 ml (36 mmol) of phosphoric acid diphenylester-azide are dissolved in 100 ml of dimethylformamide at 0° C. and 10 ml (72 mmol) of triethylamine are added. The mixture is heated at 70° C. for 1 hour and cooled to 0° C., 75 ml of 5 normal hydrochloric acid are added dropwise and the mixture is again heated at 70° C. for 1 hour. The reaction mixture is poured onto water, rendered alkaline with 2-normal sodium hydroxide solution and extracted 5 times with ethyl acetate. After drying over Na2SO4, the extract is evaporated. The product crystallizes out.

reactant | 2-[4-(quinolin-2-yl-methoxy)phenyl]-caproic acid | 30 mmol, 10.5 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C(=O)O)CCCC | C22H23NO3
reactant | phosphoric acid diphenylester azide | 36 mmol, 7.7 ml | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O.[N-]=[N+]=[N-]
reactant | triethylamine | 72 mmol, 10 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[4-(quinolin-2-yl-methoxy)phenyl]-1-pentylamine | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCCC)N | C21H24N2O
